US09085578B2
A) 5-iodo-4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile
To a mixture of 4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile (3.00 g) and N,N-dimethylformamide (70 mL) was added N-iodosuccinimide (5.84 g) at room temperature, and the mixture was stirred at 70° C. for 16 hr. The reaction mixture was cooled to room temperature, and the solvent was evaporated under reduced pressure. To the residue was added methanol, and the precipitate was collected by filtration to give the title compound (4.60 g).

reactant | 4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile | 3.00 g | COC1=C(C(NC=C1)=O)C#N | C7H6N2O2
reactant | N-iodosuccinimide | 5.84 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | N,N-dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
product | 5-iodo-4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile | 4.60 g | IC=1C(=C(C(NC1)=O)C#N)OC | C7H5IN2O2
